US06391887B1
4-Amino-7-(methoxycarbonylethyl)-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
Analogously to Example 4, 7-(methoxycarbonylethyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione (150 mg, 0.52 mmol) in 7N methanolic ammonia solution (20 ml) is reacted to form 40 mg (28%) of product.

reactant | 7-(methoxycarbonylethyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 0.52 mmol, 150 mg | COC(=O)CCC=1C=CC=2C3C(C(NC2C1)=S)CCC3 | C16H19NO2S
reactant | ammonia | 7N, 20 ml | N | H3N
product | 4-Amino-7-(methoxycarbonylethyl)-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | 40 mg, 28% | NC1=NC=2C=C(C=CC2C2C1CCC2)CCC(=O)OC | C16H20N2O2
